US05310946
Optically-pure qinghao acid (arteannuic or artemisinic acid), obtained from Artemisia annua, was reduced with sodium borohydride in methanol according to a literature procedure (Xu, X.-X.:Zhu, J.; Huang, D.-Z.; Zhou, W. S. Tetrahedron 1986, 42, 819) to dihydroqinghao acid. This was converted into the hydroperoxide in the following way. A suspension of the acid (289 mg, 1.22+10-3 mol) in acetonitrile (5 ml) containing Rose Bengal (6 mg) was stirred vigorously under an oxygen balloon at -30° C. whilst under irradiation from a tungsten lamp (500 W). After 4 h a clear solution resulted and the oxygenation was complete. In addition to the tertiary hydroperoxide, the photooxygenation also produces a small amount (ca. 18%) of an allylic regioisomer, which does not undergo the subsequent reactions. Without isolation, the mixture was diluted with dichloromethane (20 mL) and the resulting solution was cooled to -20° C. A solution containing Cu(OSO2CF3)2 (44 mg, 0.1 eq.) in acetonitrile (0.5 mL) was added dropwise with stirring. The temperature was held at -20° C. for 1 h and thereafter allowed to rise to room temperature, when the mixture was stirred for a further 2 h. The reaction mixture was poured into water (20 mL) and extracted with ether (2×25 mL). The combined extracts were washed with water (10 mL) and brine (10 mL), and then dried (MgSO4). Evaporation of the solvents left a viscous oil which after flash chromatography on silica gel with ether-light petroleum (1:1) gave crystalline qinghaosu (artemisinin) (165 mg, 48%). 1H NMR spectrum (400 MHz, CDCl3) 1H NMR spectrum (400 MHz, CDCl3) δ1.002 (3H, d, JMe,6 =6 Hz, 6-CH3), 1.03-1.12 (2H,m), 1.209 (3H, d, JMe,9 =7.2 Hz, 9-CH3), 1.33-1.53 (3H, m), 1.446 (3H, s, 3-CH3), 1.73-1.81 (2H, m), 1.86-1.93 (1H, m), 1.96-2.09 (2 H,m), 2.39-2.48 (1H,m), 3.398 (1H, dddd, J8a,8α =7.3, J8a,8β =7.3, J8a,9 7.3, J 8a,7α =5.4 Hz, H8a), 5.862 (1H, s, H-12).

reactant | artemisinic acid | C[C@@H]1CC[C@H]([C@@H]2[C@H]1CCC(=C2)C)C(=C)C(=O)O | C15H22O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydroperoxide | [O-]O
reactant | Rose Bengal | 6 mg | C1=C2C(=C(C(=C1I)O)I)OC3=C(C(=C(C=C3C24C5=C(C(=C(C(=C5Cl)Cl)Cl)Cl)C(=O)O4)I)O)I | C20H4Cl4I4O5
solvent | methanol | CO | CH4O
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | qinghaosu | 165 mg, 48% | C[C@@H]1CC[C@H]2[C@H](C(=O)O[C@H]3[C@@]24[C@H]1CC[C@](O3)(OO4)C)C | C15H22O5
